US06992087B2
Preparation of 2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-one oxime
Following the procedure for the preparation of (4E)-2,3-dihydro-4H-chromen-4-one oxime but substituting 2-ethyl-6-methoxyindan-1-one and making non-critical variations provided the title compound as a oil: HRMS (FAB) calcd for C12H15NO2+H 206.1181, found 206.1175. Anal. Calcd for C12H15NO2: C, 70.22; H, 7.37; N, 6.82. Found: C, 69.90; H, 7.48; N, 6.64.

reactant | (4E)-2,3-dihydro-4H-chromen-4-one oxime | O1CC\C(\C2=CC=CC=C12)=N/O | C9H9NO2
reactant | 2-ethyl-6-methoxyindan-1-one | C(C)C1C(C2=CC(=CC=C2C1)OC)=O | C12H14O2
product | 2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-one oxime | C(C)C1C(C2=CC(=CC=C2C1)OC)=NO | C12H15NO2
